US06069156
To a solution of methyl 1-benzyloxycarbonyl-2-propylindole-6-carboxylate (200 mg) in a mixture of methanol and ethyl acetate (1:1, 8 ml) was added 10% palladium on carbon (30 mg), and the mixture was stirred under hydrogen atmosphere for 20 minutes. The catalyst was removed by filtration through celite and washed with methanol. The filtrate was evaporated in vacuo to give methyl 2-propylindole-6-carboxylate (112 mg) as colorless crystals.

reactant | methyl 1-benzyloxycarbonyl-2-propylindole-6-carboxylate | 200 mg | C(C1=CC=CC=C1)OC(=O)N1C(=CC2=CC=C(C=C12)C(=O)OC)CCC | C21H21NO4
solvent | methanol | CO | CH4O
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 30 mg | [Pd] | Pd
product | methyl 2-propylindole-6-carboxylate | 112 mg | C(CC)C=1NC2=CC(=CC=C2C1)C(=O)OC | C13H15NO2
